US06495549B1
Benzyl(2S)-1-(5-methyl-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate (0.1 9 g) [see Preparation 17] was dissolved in ethanol (5 ml) and 10% palladium on carbon (0.05 g) was added. The reaction mixture was hydrogenated at 15 psi for 3 hours at room temperature, after which time 10% palladium on carbon (25 mg) was added and the mixture was hydrogenated for a further 1 hr, the catalyst was then filtered off through a plug of arabocel and washed with ethanol. The solvent was removed under reduced pressure to afford (2S)-1-(5-methyl-1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid (0.14 g) as a solid.

reactant | Benzyl(2S)-1-(5-methyl-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate | 9 g | CC=1C=CC2=C(N=C(O2)N2[C@@H](CCCC2)C(=O)OCC2=CC=CC=C2)C1 | C21H22N2O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
product | (2S)-1-(5-methyl-1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid | 0.14 g | CC=1C=CC2=C(N=C(O2)N2[C@@H](CCCC2)C(=O)O)C1 | C14H16N2O3
